.subckt oai211_x1 A1 A2 B1 B2 X VDD VSS
XMNA10 X A1 oai211_n1 VSS nmos w=1u l=100n
XMNA20 X A2 oai211_n1 VSS nmos w=1u l=100n
XMNB0 oai211_n1 B1 oai211_n2 VSS nmos w=1u l=100n
XMNC0 oai211_n2 B2 VSS VSS nmos w=1u l=100n
XMPA10 oai211_p1a A1 VDD VDD pmos w=2u l=100n
XMPA20 X A2 oai211_p1a VDD pmos w=2u l=100n
XMPB0 X B1 VDD VDD pmos w=2u l=100n
XMPC0 X B2 VDD VDD pmos w=2u l=100n
.ends oai211_x1
